US04661636
(a) 3-(1,1-dimethylethyl)-6-methylbenzenesulfonyl chloride
12.3 g (0.075 mol) of 4-(1,1-dimethylethyl)phenol in 30 ml of methylene chloride are added dropwise, cooling in ice, to 16.5 ml of chlorosulfonic acid dissolved in 20 ml of methylene chloride. The mixture is stirred for 40 minutes and then poured onto ice-water. The organic phase is separated off, washed with water, dried with MgSO4 and evaporated. The product is recrystallized from toluene petroleum ether.

reactant | 4-(1,1-dimethylethyl)phenol | 0.075 mol, 12.3 g | CC(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | chlorosulfonic acid | 16.5 ml | ClS(=O)(=O)O | ClHO3S
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-(1,1-dimethylethyl)-6-methylbenzenesulfonyl chloride | CC(C)(C)C=1C=C(C(=CC1)C)S(=O)(=O)Cl | C11H15ClO2S
